US06114520
To a solution of 2',3'-di-O-acetyl-5'-deoxy-5-vinylcytidine (111 mg, 3.29 mmol) in 5 ml of methanol was added 1N NaOH (0.32 ml, 0.32 mmol) at room temperature. After stirring for 1 hour, 1N HCl (ca.0.3 ml) was added to the reaction mixture, and then the reaction mixture was concentrated under reduced pressure. The residue was purified by solid phase extraction (MEGA Bond Elute LRC, eluent: H2O~H2O: MeOH=1: 1, step gradient) to give 5'-deoxy-5-vinylcytidine (82 mg, 98%) as colorless solid:

reactant | 2',3'-di-O-acetyl-5'-deoxy-5-vinylcytidine | 3.29 mmol, 111 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(N)C(=C1)C=C | C15H19N3O6
reactant | NaOH | 0.32 mmol, 1N, 0.32 ml | [OH-].[Na+]
reactant | HCl | 1N, 0.3 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5'-deoxy-5-vinylcytidine | 82 mg, 98% | C(=C)C=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C11H15N3O4
